*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.30e-03[uF]/100[V]
* Murata P/N :GCH2165C2A332JE01
* Property : C = 3.30e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCH2165C2A332JE01 Port1 Port2
C01 Port1 N01 3.20e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 9.77e-11
R03 N02 N03 9.29e-03
L04 N03 N04 9.61e-11
R04 N03 N04 4.14e-01
L05 N04 N05 7.02e-11
R05 N04 N05 1.35e-02
C06 N05 N06 1.63e-08
L06 N05 N06 2.20e-11
R06 N05 N06 2.07e-01
C07 N06 N07 3.68e-09
L07 N06 N07 4.17e-11
R07 N06 N07 4.46e-01
C08 N07 N08 2.59e-12
L08 N07 N08 1.44e-10
R08 N07 N08 8.93e+01
C09 N08 Port2 2.67e-12
L09 N08 Port2 1.20e-10
R09 N08 Port2 1.00e+05
.ENDS GCH2165C2A332JE01
