*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/6.80e-03[uF]/50[V]
* Murata P/N :GCH2195C1H682JE01
* Property : C = 6.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCH2195C1H682JE01 Port1 Port2
C01 Port1 N01 6.69e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.59e-11
R03 N02 N03 5.74e-03
L04 N03 N04 8.04e-11
R04 N03 N04 2.53e-01
L05 N04 N05 8.57e-11
R05 N04 N05 1.07e-02
C06 N05 N06 3.89e-08
L06 N05 N06 2.00e-11
R06 N05 N06 2.08e-01
C07 N06 N07 8.38e-09
L07 N06 N07 3.58e-11
R07 N06 N07 3.24e-01
C08 N07 N08 1.53e-07
L08 N07 N08 9.43e-13
R08 N07 N08 9.43e-03
C09 N08 N09 1.32e-08
L09 N08 N09 6.54e-12
R09 N08 N09 8.62e-02
C10 N09 Port2 7.13e-13
L10 N09 Port2 3.99e-10
R10 N09 Port2 9.87e+02
.ENDS GCH2195C1H682JE01
