*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.20e-04[uF]/250[V]
* Murata P/N :GCM21A5C2E221FX01
* Property : C = 2.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E221FX01 Port1 Port2
C01 Port1 N01 2.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 2.62e-12
R03 N02 N03 1.29e-02
C04 N03 N04 2.43e-08
R04 N03 N04 7.70e+00
L05 N04 N05 6.63e-11
R05 N04 N05 7.55e-02
C06 N05 N06 4.99e-08
L06 N05 N06 7.27e-11
R06 N05 N06 3.39e-02
C07 N06 N07 1.57e-09
L07 N06 N07 1.22e-11
R07 N06 N07 5.64e-01
C08 N07 N08 1.93e-10
L08 N07 N08 3.50e-11
R08 N07 N08 1.55e+00
C09 N08 N09 8.80e-11
L09 N08 N09 1.89e-11
R09 N08 N09 8.64e-01
C10 N09 Port2 7.98e-13
L10 N09 Port2 4.55e-10
R10 N09 Port2 3.32e+02
.ENDS GCM21A5C2E221FX01
