*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.30e-04[uF]/250[V]
* Murata P/N :GCM21A5C2E331FX01
* Property : C = 3.30e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E331FX01 Port1 Port2
C01 Port1 N01 3.30e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 3.85e-10
R03 N02 N03 1.07e-02
L04 N03 N04 6.53e-11
R04 N03 N04 6.97e-02
C05 N04 N05 1.56e-07
L05 N04 N05 2.68e-11
R05 N04 N05 1.47e-02
C06 N05 N06 2.11e-09
L06 N05 N06 1.18e-11
R06 N05 N06 3.64e-01
C07 N06 N07 2.76e-10
L07 N06 N07 3.07e-11
R07 N06 N07 1.15e+00
C08 N07 N08 7.75e-10
L08 N07 N08 5.47e-12
R08 N07 N08 2.12e-01
C09 N08 N09 1.86e-10
L09 N08 N09 1.07e-11
R09 N08 N09 6.26e-01
C10 N09 N10 3.71e-12
L10 N09 N10 1.05e-10
R10 N09 N10 1.75e+01
C11 N10 Port2 7.87e-12
L11 N10 Port2 4.26e-11
R11 N10 Port2 3.44e+01
.ENDS GCM21A5C2E331FX01
