*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/6.80e-04[uF]/250[V]
* Murata P/N :GCM21A5C2E681FX01
* Property : C = 6.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E681FX01 Port1 Port2
C01 Port1 N01 6.80e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 2.53e-10
R03 N02 N03 1.10e-02
C04 N03 N04 4.92e-07
R04 N03 N04 3.02e-02
L05 N04 N05 1.73e-10
R05 N04 N05 5.14e-02
C06 N05 N06 5.54e-09
L06 N05 N06 9.29e-12
R06 N05 N06 1.84e-01
C07 N06 N07 5.32e-10
L07 N06 N07 3.16e-11
R07 N06 N07 6.62e-01
C08 N07 N08 3.51e-10
L08 N07 N08 1.28e-11
R08 N07 N08 3.16e-01
C09 N08 N09 5.52e-12
L09 N08 N09 6.80e-11
R09 N08 N09 4.07e+00
C10 N09 Port2 1.36e-12
L10 N09 Port2 2.16e-10
R10 N09 Port2 1.84e+02
.ENDS GCM21A5C2E681FX01
