*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.20e-03[uF]/250[V]
* Murata P/N :GCM21A5C2E222GX01
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E222GX01 Port1 Port2
C01 Port1 N01 2.20e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 2.29e-10
R03 N02 N03 1.45e-02
C04 N03 N04 6.67e-08
R04 N03 N04 6.77e+01
L05 N04 N05 5.50e-11
R05 N04 N05 5.61e-01
L06 N05 N06 7.35e-11
R06 N05 N06 2.58e-02
C07 N06 N07 1.87e-08
L07 N06 N07 1.18e-11
R07 N06 N07 1.74e-01
C08 N07 N08 2.86e-09
L08 N07 N08 2.99e-11
R08 N07 N08 4.70e-01
C09 N08 N09 1.22e-09
L09 N08 N09 1.81e-11
R09 N08 N09 1.72e-01
C10 N09 Port2 1.28e-12
L10 N09 Port2 2.18e-10
R10 N09 Port2 2.59e+02
.ENDS GCM21A5C2E222GX01
