*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/5.60e-04[uF]/250[V]
* Murata P/N :GCM21A5C2E561JX01
* Property : C = 5.60e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E561JX01 Port1 Port2
C01 Port1 N01 5.60e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 6.53e-15
R03 N02 N03 6.87e-03
C04 N03 N04 1.36e-06
R04 N03 N04 1.09e-02
L05 N04 N05 3.69e-11
R05 N04 N05 8.22e-01
C06 N05 N06 8.26e-09
L06 N05 N06 7.29e-11
R06 N05 N06 3.48e-02
C07 N06 N07 2.87e-09
L07 N06 N07 2.03e-11
R07 N06 N07 5.33e-01
C08 N07 N08 6.09e-10
L08 N07 N08 3.83e-11
R08 N07 N08 1.05e+00
C09 N08 N09 2.90e-10
L09 N08 N09 2.13e-11
R09 N08 N09 4.35e-01
C10 N09 Port2 6.68e-13
L10 N09 Port2 4.38e-10
R10 N09 Port2 3.88e+02
.ENDS GCM21A5C2E561JX01
